US20010047031A1
(RS)-4-(Pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt (0.22 g, 0.65 mmol), 4-phenyl-butyraldehyde (0.096 g, 0.65 mmol), triethylamine (0.090 ml, 0.65 mmol), and sodium triacetoxyborohydride (0.2 g, 0.97 mmol) were suspended in 1,2-dichloroethane (4 ml). After 3 hours stirring at room temperature, the reaction mixture was quenched with saturated NaHCO3 (10 ml). The aqueous phase was extracted with CH2Cl2 (3 times). The combined organic phases were dried over Na2SO4, filtered and the solvent was evaporated. The residue was chromatographed over silica gel (CH2Cl2-MeOH, 19:1) to provide a white solid which was suspensed in MeOH. HCl-Et2O was added to provide (RS)-4-[1-(4-phenyl-butyl)-pyrrolidine-3-sulfonyl]-phenol hydrochloride (0.180 g, 70%) as a white solid, m.p. 121-124° C. and MS: m/e=360.3 (M+H+).

reactant | (RS)-4-(Pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt | 0.65 mmol, 0.22 g | FC(C(=O)O)(F)F.N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | 4-phenyl-butyraldehyde | 0.65 mmol, 0.096 g | C1(=CC=CC=C1)CCCC=O | C10H12O
reactant | triethylamine | 0.65 mmol, 0.090 ml | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.97 mmol, 0.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl Et2O | Cl.CCOCC
solvent | 1,2-dichloroethane | 4 ml | ClCCCl | C2H4Cl2
solvent | MeOH | CO | CH4O
product | (RS)-4-[1-(4-phenyl-butyl)-pyrrolidine-3-sulfonyl]-phenol hydrochloride | 0.180 g, 70% | Cl.C1(=CC=CC=C1)CCCCN1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | InChI=1S/C20H25NO3S.ClH/c22-18-9-11-19(12-10-18)25(23,24)20-13-15-21(16-20)14-5-4-8-17-6-2-1-3-7-17;/h1-3,6-7,9-12,20,22H,4-5,8,13-16H2;1H
